US05563278
α-Hexyl-4-{[(3-amino-2-ethoxycarbonylphenyl)carbonyl]amino}imidazole-1-acetic acid ethyl ester
A mixture of 5.1 g of -hexyl-4-{[(3-nitro-2ethoxycarbonylphenyl)carbonyl]amino}imidazole-1-acetic acid ethyl ester and 2.1 g of 5% palladium-on-carbon were hydrogenated in the presence of 150 ml of methanol until consumption of hydrogen ceased. The catalyst was removed by filtration and the filtrate concentrated in vacuo to provide 4.7 g of the desired subtitled intermediate. NMR.

reactant | hexyl-4-{[(3-nitro-2ethoxycarbonylphenyl)carbonyl]amino}imidazole-1-acetic acid ethyl ester | C(C)OC(CN1C(=NC(=C1)NC(=O)C1=C(C(=CC=C1)[N+](=O)[O-])C(=O)OCC)CCCCCC)=O | C23H30N4O7
catalyst | palladium-on-carbon | 2.1 g | [Pd] | Pd
product | α-Hexyl-4-{[(3-amino-2-ethoxycarbonylphenyl)carbonyl]amino}imidazole-1-acetic acid ethyl ester | 4.7 g | C(C)OC(C(N1C=NC(=C1)NC(=O)C1=C(C(=CC=C1)N)C(=O)OCC)CCCCCC)=O | C23H32N4O5
